US07960376B2
N-(2-hydroxyphenyl)-4-(4-(trifluoromethyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine-6-carboxamide (25 mg, 51 μmol) was dissolved in 1 mL of DMF. Ammonium acetate (39 mg, 506 μmol) was added and the reaction was subjected to microwave irradiation (150° C., 25 min). LCMS analysis of the reaction mixture showed consumption of starting material. The reaction mixture was diluted with saturated aqueous sodium bicarbonate (1 mL) and EtOAc (2 mL). The organic layer was removed and the aqueous layer extracted with EtOAc (2 mL). The organic layers were combined, dried over anhydrous Na2SO4, filtered and evaporated. The residue was purified by flash column chromatography with gradient elution of hexanes with 10-60% EtOAc to provide 2-(4-(4-(trifluoromethyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)benzo[d]oxazole (1.4 mg, 2.9 μmol, 6% yield) as a yellow oil. LCMS (+ESI) m/z=477.4 [M+H]+; 1H-NMR (CDCl3) δ 7.7-7.9 (m, 6H), 7.40 (d, 2H), 7.30 (d, 1H), 7.05 (dd, 1H), 6.80 (d, 1H), 3.50 (t, 2H), 3.05 (t, 2H).

reactant | N-(2-hydroxyphenyl)-4-(4-(trifluoromethyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine-6-carboxamide | 51 μmol, 25 mg | OC1=C(C=CC=C1)NC(=O)C1=CC2=C(SCCN2S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C22H17F3N2O4S2
reactant | Ammonium acetate | 506 μmol, 39 mg | C(C)(=O)[O-].[NH4+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-(4-(trifluoromethyl)phenylsulfonyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)benzo[d]oxazole | 2.9 μmol, 1.4 mg, 6% yield | FC(C1=CC=C(C=C1)S(=O)(=O)N1C2=C(SCC1)C=CC(=C2)C=2OC1=C(N2)C=CC=C1)(F)F | C22H15F3N2O3S2
